US07323455B2
7-(3,5-Difluorophenyl)-5,5-dimethyl-1,5-dihydro-4,1-benzoxazepin-2(3H)-one
Prepared from 7-bromo-5,5-dimethyl-1,5-dihydro-4,1-benzoxazepin-2(3H)-one and 3,5-difluorobenzene boronic acid generally according to the coupling procedure described in example 1. 1H-NMR (DMSO-d6) δ 10.04 (s, 1H), 7.61-7.57 (m, 2H), 7.52-7.45 (m, 2H), 7.23-7.17 (m, 2H), 4.72 (s, 2H), 1.60 (s, 6H); MS (FI) m/z 304 [M+H]+.

reactant | 7-bromo-5,5-dimethyl-1,5-dihydro-4,1-benzoxazepin-2(3H)-one | BrC=1C=CC2=C(C(OCC(N2)=O)(C)C)C1 | C11H12BrNO2
reactant | 3,5-difluorobenzene boronic acid | FC=1C=C(C=C(C1)F)B(O)O | C6H5BF2O2
product | 7-(3,5-Difluorophenyl)-5,5-dimethyl-1,5-dihydro-4,1-benzoxazepin-2(3H)-one | FC=1C=C(C=C(C1)F)C=1C=CC2=C(C(OCC(N2)=O)(C)C)C1 | C17H15F2NO2
